US07592363B2
2-BENZYL-3-[4-(BENZYLOXY)PHENYL]-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
4-(2-Benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol (10 mg, 1 eq) was treated with benzylbromide (10 μL, 3 eq) and potassium carbonate (19 mg, 5 eq) in acetone (1 mL). The reaction mixture was heated at 60° C. until completion of the reaction, as judged by TLC. Volatiles were removed in vacuo and the residue treated with a water/dichloromethane mixture followed by extraction with dichloromethane. Purification by flash chromatography (silica, ethyl acetate/n-heptane, 1:9) gave the title compound in 89% yleld.

reactant | 4-(2-Benzyl-7-trifluoromethyl-2H-indazole-3-yl)-phenol | 10 mg, 1 eq | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)O)C(F)(F)F | C21H15F3N2O
reactant | benzylbromide | 10 μL, 3 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 19 mg, 5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | 2-BENZYL-3-[4-(BENZYLOXY)PHENYL]-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C(F)(F)F | C28H21F3N2O
